US09062092B2
Compound 52c. (E)-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Cyclobutyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoic acid
A solution of (S)-1-[(S)-2-((S)-2-cyclobutyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (427.5 mg, 0.782 mmol), 2,2-dimethyl-but-3-enoic acid (89.3 mg, 0.782 mmol), tri(o-tolyl)phosphine (47.6 mg, 0.156 mmol) and triethylamine (0.33 mL, 2.346 mmol) in 1,4-dioxane (10 mL) was degassed by bubbling nitrogen through for 5 minutes then warmed to 50° C. and treated with tris(dibenzylideneacetone)dipalladium(0) (71.6 mg, 0.078 mmol). After stirring at 100° C. for 1.5 h, tris(dibenzylideneacetone) dipalladium(0) (71.6 mg, 0.078 mmol) and tri(o-tolyl)phosphine (47.6 mg, 0.156 mmol) were added. After stirring for 40 minutes at 100° C., the reaction was cooled to room temperature, filtered through a pad of Celite, which was rinsed with ethyl acetate. The volatiles were removed in vacuo to provide crude title compound as an orange foam that was used without further purification. LCMS (m/z) 580.2 [M+H], Tr=2.01 min.

reactant | (S)-1-[(S)-2-((S)-2-cyclobutyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.782 mmol, 427.5 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@@H](O)C1CCC1)=O)=O | C25H32BrN5O4
reactant | 2,2-dimethyl-but-3-enoic acid | 0.782 mmol, 89.3 mg | CC(C(=O)O)(C=C)C | C6H10O2
reactant | tri(o-tolyl)phosphine | 0.156 mmol, 47.6 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 2.346 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | tri(o-tolyl)phosphine | 0.156 mmol, 47.6 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.078 mmol, 71.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.078 mmol, 71.6 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | (E)-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-Cyclobutyl-2-hydroxy-acetylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoic acid | C1(CCC1)[C@@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(C)C)C)O | C31H41N5O6
